US07494999B2
2-Bromo-5-trifluoromethyl-pyridine (1.06 g, 4.69 mmol), (S)-2-methylpiperazine (1.03 g, 10.28 mmol) and triethylamine (1.5 mL, 10.76 mmol) were stirred in toluene (10 mL) at 110° C. for 26 h. The reaction was cooled to room temperature, diluted with ethyl acetate (150 mL) and washed with water and brine. The organic layer was dried (MgSO4), filtered and concentrated. The crude mixture was purified by automated silica gel flash column chromatography (gradient eluent 0-20% MeOH/dichloromethane) to afford 3-(S)-methyl-1-(5-trifluoromethyl-pyridin-2-yl)-piperazine (926 mg, 81%) as a yellow solid. 1H NMR (400 MHz, CDCl3) 8.38 (s, 1H), 7.62 (dd, 1H), 7.63 (d, 1H), 4.29-4.20 (m, 2H), 3.16-3.12 (m, 1H), 3.02-2.85 (m, 3H), 2.64-2.52 (m, 2H), 1.18 (d, 3H).

reactant | 2-Bromo-5-trifluoromethyl-pyridine | 4.69 mmol, 1.06 g | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | (S)-2-methylpiperazine | 10.28 mmol, 1.03 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | triethylamine | 10.76 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-(S)-methyl-1-(5-trifluoromethyl-pyridin-2-yl)-piperazine | 926 mg, 81% | C[C@H]1CN(CCN1)C1=NC=C(C=C1)C(F)(F)F | C11H14F3N3
